US05753657
2.1 g of 10-benzylidene-7-chloro-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one dissolved in 20 ml of a mixture of methanol and dimethylformamide (1/1 by volume) are hydrogenated at a temperature in the region of 20° C. and at a pressure of 9.6 bar of hydrogen for 24 hours in the presence of 10% palladium on charcoal. The catalyst is then filtered off under inert atmosphere and the solvents are evaporated off. The brown oil obtained is taken up in 25 ml of methanol and, after addition of 50 ml of distilled water, a pink precipitate forms. The solid thus obtained (1.3 g) is recrystallized in 150 ml of a mixture of methanol and water (1/2 by volume). 0.6 g of 10-benzyl-7-chloro-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is obtained, in the form of a beige solid the melting point of which is greater than 260° C. (Analysis C20H14ClN3 O·0.41 H2O % calculated C: 69.07; H: 4.06; Cl: 10.19; N: 12.08; % found C: 69.0; H: 3.9; Cl: 10.5; N: 12.4).

reactant | 10-benzylidene-7-chloro-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 2.1 g | C(C1=CC=CC=C1)=C1C=2C=CC(=CC2C=2NC(C=3N(C21)C=CN3)=O)Cl | C20H12ClN3O
reactant | hydrogen | [H][H] | H2
reactant | water | 50 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | [Pd] | Pd
solvent | methanol | 25 ml | CO | CH4O
product | 10-benzyl-7-chloro-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.6 g | C(C1=CC=CC=C1)C1C=2C=CC(=CC2C=2NC(C=3N(C21)C=CN3)=O)Cl | C20H14ClN3O
